US06506901B2
Step E: N-(5-{(1R)-2-[(1-{4-[3-(2,6-Difluoro-benzyl)-3-isopropyl-ureido]-benzenesulfonyl}-piperidin-4-ylmethyl)-amino]-1-hydroxy-ethyl}-2-hydroxy-phenyl)-methanesulfonamide
A solution of N-[5-(2-amino-1-{R}-hydroxyethyl)-2-hydroxyphenyl]-methanesulfonamide (0.159 g, 0.65 mmol), 1-(2,6-difluoro-benzyl)-3-[4-(4-formyl-piperidine-1-sulfonyl}-phenyl]-1-isopropyl-urea (0.6 mol),and glacial acetic acid (0.037 g, 0.65 mmol) in 5 mL methanol was stirred for 1 hour over 4A molecular sieves. In one portion sodium cyanoborohydride (0.041 g, 0.65 mmol) was added and the mixture stirred over night at ambient temperature. The sieves were filtered and the filtrate was preabsorbed on silica gel. The solids were purified by flash chromatography (CH2Cl2—CH3OH, 19:1) to give 0.12 g of product as an off white solid.

reactant | N-[5-(2-amino-1-{R}-hydroxyethyl)-2-hydroxyphenyl]-methanesulfonamide | 0.65 mmol, 0.159 g | NC[C@H](O)C=1C=CC(=C(C1)NS(=O)(=O)C)O | C9H14N2O4S
reactant | 1-(2,6-difluoro-benzyl)-3-[4-(4-formyl-piperidine-1-sulfonyl}-phenyl]-1-isopropyl-urea | 0.6 mol | FC1=C(CN(C(=O)NC2=CC=C(C=C2)S(=O)(=O)N2CCC(CC2)C=O)C(C)C)C(=CC=C1)F | C23H27F2N3O4S
reactant | acetic acid | 0.65 mmol, 0.037 g | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 0.65 mmol, 0.041 g | C(#N)[BH3-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | N-(5-{(1R)-2-[(1-{4-[3-(2,6-Difluoro-benzyl)-3-isopropyl-ureido]-benzenesulfonyl}-piperidin-4-ylmethyl)-amino]-1-hydroxy-ethyl}-2-hydroxy-phenyl)-methanesulfonamide | 0.12 g | FC1=C(CN(C(NC2=CC=C(C=C2)S(=O)(=O)N2CCC(CC2)CNC[C@H](O)C=2C=CC(=C(C2)NS(=O)(=O)C)O)=O)C(C)C)C(=CC=C1)F | C32H41F2N5O7S2
